US07534893B2
4-(4-fluorophenyl)-1-methyl-4-piperidinamine
TEA (1.3 mL) and diphenylphosphorylazide (0.98 mL) were added to a suspension of 4-(4-fluorophenyl)-1-methyl-4-piperidinecarboxylic acid hydrochloride (500 mg) in dry toluene (40 mL) under nitrogen atmosphere. The reaction mixture was heated at 90° C. and stirred overnight. Then it was cooled to rt and washed with an aqueous std K2CO3 solution. The aqueous layer was separated and the organic phase was dried and concentrated under vacuum to give a white solid. This material was suspended in HCl 5M (10 mL) and the reaction mixture was heated to reflux and stirred overnight. Then it was cooled to 0° C. and treated with aqueous 4M NaOH solution until pH=9. The aqueous layer was extracted with AcOEt, the combined organic extracts were washed with water and brine, dried and concentrated under vacuum to a residue which was purified by silica cartridge (from DCM to DCM/MeOH/TEA 90:5:5) to give the title compound (70 mg) as a white foam.

reactant | diphenylphosphorylazide | 0.98 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-(4-fluorophenyl)-1-methyl-4-piperidinecarboxylic acid hydrochloride | 500 mg | Cl.FC1=CC=C(C=C1)C1(CCN(CC1)C)C(=O)O
reactant | NaOH | 4M | [OH-].[Na+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | HCl | 5M, 10 mL | Cl | ClH
product | 4-(4-fluorophenyl)-1-methyl-4-piperidinamine | 70 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C)N | C12H17FN2
